US07763639B2
2-(1-ISOBUTYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHYL)PHENOL
Preparation according to Example 1: 2-piperidin-4-yl-6-(trifluoromethyl)phenol (0.01 g, 0.04 mmol), acetonitrile (2 ml), potassium carbonate (0.01 g) and isobutyl bromide (0.01 ml). MS m/z (relative intensity, 70 eV) 301 (M+, 4), 259 (13), 258 (bp), 238 (9), 194 (11).

reactant | 2-piperidin-4-yl-6-(trifluoromethyl)phenol | 0.04 mmol, 0.01 g | N1CCC(CC1)C1=C(C(=CC=C1)C(F)(F)F)O | C12H14F3NO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl bromide | 0.01 ml | C(C(C)C)Br | C4H9Br
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-(1-ISOBUTYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHYL)PHENOL | C(C(C)C)N1CCC(CC1)C1=C(C(=CC=C1)C(F)(F)F)O | C16H22F3NO
